US05153207
4-[Bis(4-methylphenyl)methoxy]-1-piperidinepropionic acid hydrochloride
A mixture of 3.55 g of ethyl 4-[bis(4-methylphenyl)methoxy]-1-piperidinepropionate hydrochloride, 12.4 ml of 2N sodium hydroxide aqueous solution and 20 ml of methanol was refluxed for 1 hour and then concentrated. Water was added to the residue and made acidic with hydrochloric acid. The resulting precipitate was collected by filtration to give 3.29 g of colorless crystals. The crystals were recrystallized from water to give 2.63 g of colorless needles, mp 159°~162° C.

reactant | ethyl 4-[bis(4-methylphenyl)methoxy]-1-piperidinepropionate hydrochloride | 3.55 g | Cl.CC1=CC=C(C=C1)C(OC1CCN(CC1)CCC(=O)OCC)C1=CC=C(C=C1)C
reactant | sodium hydroxide | 2N, 12.4 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-[Bis(4-methylphenyl)methoxy]-1-piperidinepropionic acid hydrochloride | 3.29 g | Cl.CC1=CC=C(C=C1)C(OC1CCN(CC1)CCC(=O)O)C1=CC=C(C=C1)C | InChI=1S/C23H29NO3.ClH/c1-17-3-7-19(8-4-17)23(20-9-5-18(2)6-10-20)27-21-11-14-24(15-12-21)16-13-22(25)26;/h3-10,21,23H,11-16H2,1-2H3,(H,25,26);1H
